US09102692B2
5-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester (362 mg, 0.687 mmol) was dissolved in a mixture solution of ethyl acetate (4 ml) and 4 M hydrochloric acid/ethyl acetate (8 ml). This was stirred at room temperature under a nitrogen atmosphere for 1.5 hours. The reaction mixture was concentrated under reduced pressure. Thus, 5-piperidin-4-yl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester hydrochloride was obtained as a colorless amorphous material (332 mg).

reactant | 5-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester | 0.687 mmol, 362 mg | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C28H34N2O6S
reactant | hydrochloric acid ethyl acetate | 4 M, 8 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 5-piperidin-4-yl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C1CCNCC1)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C23H26N2O4S.ClH/c1-3-29-23(26)22-15-19-14-18(17-10-12-24-13-11-17)6-9-21(19)25(22)30(27,28)20-7-4-16(2)5-8-20;/h4-9,14-15,17,24H,3,10-13H2,1-2H3;1H
